US07612075B2
B. 1-[2-(3-Methylpyridin-4-yl-amino)-ethyl]-piperazin-2-one.
4-[2-(3-Methylpyridin-4-ylamino)-ethyl]-3-oxo-piperazine-1-carboxlic acid benzyl ester (0.20 g, 0.54 mmol) is dissolved in anhydrous ethanol (20 mL) and hydrogenated at 50 PSI with 10% Pd/C overnight. After filtration, the filtrate is concentrated. The residue is treated with Pd black in 5% HCO2H/CH2Cl2 (10 ml) for 10 minutes. Filtration and concentration gives crude residue, which is purified by chromatography using NH4OH/MeOH/CH2Cl2 (1:5:95) to give the title compound as a clear syrup (0.078 g, 0.33 mmol). 1H NMR (CDCl3, 300 MHz) δ8.17 (d, 1H), 8.03 (s, 1H), 7.35 (s, 5H), 6.36 (d, 1H), 5.30 (b, 1H), 3.74 (t, 2H), 3.53 (s, 2H), 3.38 (m, 4H), 3.08 (t, 2H), 2.02 (s, 3H).

reactant | 4-[2-(3-Methylpyridin-4-ylamino)-ethyl]-3-oxo-piperazine-1-carboxlic acid benzyl ester | 0.54 mmol, 0.20 g | C(C1=CC=CC=C1)OC(=O)N1CC(N(CC1)CCNC1=C(C=NC=C1)C)=O | C20H24N4O3
solvent | ethanol | 20 mL | C(C)O | C2H6O
solvent | Pd/C | [Pd] | Pd
product | 1-[2-(3-Methylpyridin-4-yl-amino)-ethyl]-piperazin-2-one | 0.33 mmol, 0.078 g | CC=1C=NC=CC1NCCN1C(CNCC1)=O | C12H18N4O
